* SPICE netlist of Part1-Parser.pdf

V1 5 0 2
*V2 3 2 0.2
*V3 7 6 2
*I1 4 8 1e-3
*I2 0 6 1e-3
R1 1 5 1.5
R2 1 2 1
R3 5 2 50
R4 5 6 0.1
R5 2 6 1.5
r6 3 4 0.1
R7 8 0 1e3
R8 4 0 10
c9 2 0 3
C79 7 0 11
L10 5 3 2
*V1 5 0 2 EXP (2 5 1 0.2 2 0.5)
V2 3 2 0.2 PULSE (0.2 1 1 0.1 0.4 0.5 2)
V3 7 6 2
I1 4 8 1e-3 SIN (1e-3 0.5 5 1 1 30)
I2 0 6 1e-3 PWL(0 1e-3) (1.2 0.1) (1.4 1) (2 0.2) (3 0.4)


.tran 0.1 3
.plot V(1) V(5) V(2) V(3) V(4) V(6) V(7) V(8)
*.options spd sprse
*.DC V1 0 3 0.01
*.PLOT V(4)
.options    sparse iter
*.control
*run
  *op
  * print all > dc_op_ngspice.txt
  *dc v1 0 3 0.01
  *wrdata dc_sweep_v1_v(4)_ngspice.txt v(4)
  *plot V(1) V(5) V(2) V(3) V(4) V(6) V(7) V(8)
.endc
.end
